US07902181B2
A suspension of (S)-tert-butyl 1-cyano-2-(3′-cyanobiphenyl-4-yl)ethylcarbamate (8.4 g) in formic acid (100 mL) was stirred and heated to 50° C. for 10 min. The mixture was concentrated in vacuo. The crude material was dissolved in methanol (10 mL) and loaded on to an 50 g SCX cartridge. The impurities were washed through with methanol (100 mL) and discarded. The product was eluted with 1N methanolic ammonia (150 mL) and evaporated in vacuo. The residue was further purified by flash chromatography, eluting with ethyl acetate to afford (S)-4′-(2-amino-2-cyanoethyl)biphenyl-3-carbonitrile (3.32 g).

reactant | (S)-tert-butyl 1-cyano-2-(3′-cyanobiphenyl-4-yl)ethylcarbamate | 8.4 g | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C#N)NC(OC(C)(C)C)=O | C21H21N3O2
solvent | formic acid | 100 mL | C(=O)O | CH2O2
product | (S)-4′-(2-amino-2-cyanoethyl)biphenyl-3-carbonitrile | 3.32 g | N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C#N)C#N | C16H13N3
